US08247431B2
Step 1: Preparation of pyridin-3-yl-carbamic acid tert-butyl ester
3-Aminopyridine (20.0 g) was dissolved in tert-butanol (300 mL), di-tert-butyl dicarbonate (52.0 g) was added and the solution was stirred at 50° C. for 5 hours, then for 12 hours at room temperature and another 7 hours at 50° C. The solvent was evaporated on a rotary evaporator and the residue was dissolved in ethyl acetate. The organic layer was 3× washed with water, washed with brine, dried over MgSO4 and concentrated in vacuum. The residue was purified 2× by column chromatography (silica 60, hexane/ethyl acetate=1:1, then 1:2, Rf=0.15) to afford 6.20 g of the title compound of the formula

reactant | 3-Aminopyridine | 20.0 g | NC=1C=NC=CC1 | C5H6N2
reactant | di-tert-butyl dicarbonate | 52.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 300 mL | C(C)(C)(C)O | C4H10O
product | pyridin-3-yl-carbamic acid tert-butyl ester | 6.20 g | C(C)(C)(C)OC(NC=1C=NC=CC1)=O | C10H14N2O2
